US04806550
Preparation of 3-benzoyl-4-(2-methoxyphenylamino)-8-methoxyquinoline 3-Benzoyl-4-chloro-8-methoxyquinoline (2.8 g, 0.0094 mol) was heated under reflux in a mixture of 1,4-dioxan (50 ml) and o-anisidine (7 ml) for 1 hour. The solvent was evaporated and the residue was dissolved in dichloromethane, and washed with dilute hydrochloric acid, sodium hydrogen carbonate solution, water and brine. The organic solution was dried and evaporated to an oil which was chromatographed (silica gel, 1% methanol in dichloromethane) to give an oil which afforded yellow crystals of 3-benzoyl-4-(2-methoxyphenylamino)-8-methoxyquinoline (2.2 g, 61%) from ethyl acetate, m.p. 200°-202°.

reactant | 3-benzoyl-4-(2-methoxyphenylamino)-8-methoxyquinoline 3-Benzoyl-4-chloro-8-methoxyquinoline | 0.0094 mol, 2.8 g | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC.C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)OC)OC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | o-anisidine | 7 ml | COC=1C(=CC=CC1)N | C7H9NO
product | 3-benzoyl-4-(2-methoxyphenylamino)-8-methoxyquinoline | 2.2 g, 61% | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)OC)OC | C24H20N2O3
